US07449325B2
Synthesis of N-benzyl-2-carbomethoxymethylpiperidine
In 13 ml of acetonitrile was dissolved 1.0 g (5.16 mol) of 2-carbomethoxymethylpiperidine hydrochloride, and 1.77 ml (12.72 mmol) of triethylamine and 0.76 ml (6.36 mmol) of benzyl bromide were added to the solution at room temperature, and the resulting mixture was reacted at the same temperature under stirring for 5 hours. After completion of the reaction, the obtained reaction mixture was filtered and then concentrated under reduced pressure, then, 25 ml of ethyl acetate and 15 ml of a saturated aqueous sodium hydrogen carbonate solution were added to the residue and the organic layer was extracted. The obtained organic layer was washed with 15 ml of a saturated aqueous sodium hydrogen carbonate solution, and saturated saline solution, dried over anhydrous magnesium sulfate, then, filtered and the filtrate was concentrated under reduced pressure to obtain 0.97 g of an oily substance. The resulting oily substance was purified by silica gel column chromatography (WAKOGEL C-200 (trade name), n-hexane/ethyl acetate=4/1(volume ratio)) to obtain 0.75 g (Isolated yield based on 2-carbomethoxymethylpiperidine hydrochloride=59%) of N-benzyl-2-carbomethoxymethylpiperidine.

reactant | 2-carbomethoxymethylpiperidine hydrochloride | 5.16 mol, 1.0 g | Cl.C(=O)(OC)CC1NCCCC1
reactant | triethylamine | 12.72 mmol, 1.77 ml | C(C)N(CC)CC | C6H15N
reactant | benzyl bromide | 6.36 mmol, 0.76 ml | C(C1=CC=CC=C1)Br | C7H7Br
solvent | acetonitrile | 13 ml | C(C)#N | C2H3N
product | N-benzyl-2-carbomethoxymethylpiperidine | C(C1=CC=CC=C1)N1C(CCCC1)CC(=O)OC | C15H21NO2
